US09422290B2
N6-Benzyl-N8-(1-ethyl-piperidin-4-yl)-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine III-2
N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine (0.05 g; 0.11 mmol) was dissolved in 0.5 ml THF. Acetic acid (0.01 ml; 0.23 mmol), acetaldehyde (0.03 ml; 0.46 mmol) and STAB (0.03 g; 0.15 mmol) were added and stirred at ambient temperature for 3 hours. The crude material was purified by using reversed phase chromatography under basic conditions and afterwards by TLC.

reactant | N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | 0.11 mmol, 0.05 g | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2)C | C19H25N7
reactant | Acetic acid | 0.23 mmol, 0.01 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 0.46 mmol, 0.03 ml | C(C)=O | C2H4O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | N6-Benzyl-N8-(1-ethyl-piperidin-4-yl)-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)CC)C | C21H29N7
